US06303597B1
a) 4-(Bicyclo[2.2.1]hept-1-yl)-3,6-dichloropyridazine
Concentrated sulphuric acid (2.17 ml, 40 mM) was added carefully to a suspension of 3,6-dichloropyridazine (2.11 g, 14.3 mM) in water (50 ml). This mixture was then heated to 70° C. and bicyclo[2.2.1]heptane-1-carboxylic acid (Org. Synth., 59, 85; 2.0 g, 14.3 mM) was added. After ten minutes a solution of silver nitrate (0.48 g, 2.8 mM) in water (5 ml) was added dropwise over two minutes. A solution of ammonium persulphate (9.8 g, 43 mM) in water (20 ml) was added over 20 minutes. The reaction was heated at 70° C. for a further 40 minutes and then allowed to cool to room temperature. The mixture was poured onto ice and basified with concentrated aqueous ammonia; the temperature was kept below 10° C. by addition of more ice. The aqueous phase was extracted with dichloromethane (3×200 ml) and the combined extracts were dried (MgSO4), filtered and evaporated to give the crude product, which was purified by column chromatography using ethyl acetate/hexane mixtures as the eluent to give the title compound (3.4 g). 1H NMR (250 MHz, CDCl3) δ1.49-2.00 (8H, m), 2.17 (2H, m), 2.43 (1H, m), 7.45 (1H, s); MS (ES+) m/e 244 [MH]+.

reactant | sulphuric acid | 40 mM, 2.17 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3,6-dichloropyridazine | 14.3 mM, 2.11 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | bicyclo[2.2.1]heptane-1-carboxylic acid | 14.3 mM, 2.0 g | C12(CCC(CC1)C2)C(=O)O | C8H12O2
reactant | ammonium persulphate | 43 mM, 9.8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonia | N | H3N
solvent | water | 50 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 20 ml | O | H2O
catalyst | silver nitrate | 2.8 mM, 0.48 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-(Bicyclo[2.2.1]hept-1-yl)-3,6-dichloropyridazine | 3.4 g | C12(CCC(CC1)C2)C2=C(N=NC(=C2)Cl)Cl | C11H12Cl2N2
